US04730006
3,7-di-t-butoxycarbonylamino-6,6-difluoro-1,8-nonadiene (43)
A mixture of 3,7-diphthalimido-6,6-difluoro-1,8-nonadiene (95 mg, 0.21 mmoles), hydrazine hydrate (0.43 ml of a 1M solution in ethanol) in ethanol (0.3 ml), and tetrahydrofuran (0.1 ml) is kept for 2 days at 25° C. and then heated for 1 hour at 80° C. 6N HCl (1 ml) is added to the mixture, and heating is continued for 2 hours. After cooling, the reaction mixture is filtered and concentrated under vacuum. The residue, di-t-butyldicarbonate (109 mg, 0.5 mmoles), triethylamine (60 mg, 0.6 mmoles), water (0.2 ml), and tetrahydrofuran (0.6 ml) are kept under magnetic stirring overnight at room temperature. After concentration under reduced pressure, usual extraction with ether and water gives the title compound (85 mg) which is purified by chromatography on silica (ethyl acetate/petroleum ether: 15/85, RF: 053): 40 mg (50%).

reactant | 3,7-diphthalimido-6,6-difluoro-1,8-nonadiene | 0.21 mmoles, 95 mg | C1(C=2C(C(N1C(C=C)CCC(C(C=C)N1C(C=3C(C1=O)=CC=CC3)=O)(F)F)=O)=CC=CC2)=O | C25H20F2N2O4
reactant | hydrazine hydrate | O.NN
reactant | HCl | 6N, 1 ml | Cl | ClH
reactant | di-t-butyldicarbonate | 0.5 mmoles, 109 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.6 mmoles, 60 mg | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 0.6 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 0.1 ml | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 0.3 ml | C(C)O | C2H6O
solvent | water | 0.2 ml | O | H2O
product | 3,7-di-t-butoxycarbonylamino-6,6-difluoro-1,8-nonadiene | 85 mg | C(C)(C)(C)OC(=O)NC(C=C)CCC(C(C=C)NC(=O)OC(C)(C)C)(F)F | C19H32F2N2O4
